US08202984B2
5-Bromo-2-chloro-1-(5-n-propyl-2-thienylmethyl)benzene
5-Bromo-2-chlorobenzoic acid and 2-n-propylthiophene were used and treated in a manner similar to Reference Example 5 to give the target compound.

reactant | 5-Bromo-2-chlorobenzoic acid | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | 2-n-propylthiophene | C(CC)C=1SC=CC1 | C7H10S
product | 5-Bromo-2-chloro-1-(5-n-propyl-2-thienylmethyl)benzene | BrC=1C=CC(=C(C1)CC=1SC(=CC1)CCC)Cl | C14H14BrClS
